US09029405B2
Step 2: tert-butyl 2-[(4-cyano-2-fluorobenzyl)amino]-3-methylbutanoate
To a stirred solution of tert-butyl 2-amino-3-methylbutanoate (8.5 g, 0.05 mol) in dry DMF (50 mL) under nitrogen, was added 4-cyano-2-fluoro-benzyl bromide (FluoroChem Ltd, 9.4 g, 0.044 mol) and NaHCO3 (10.2 g, 0.12 mol). The resulting mixture was stirred at RT for 16 h. Water (70 mL) was added and the desired product was extracted with ethyl acetate (2×100 mL). The organic layer was washed with water (3×100 mL) and the solvent was dried over Na2SO4 and concentrated under vacuum. The resulted residue was purified by column chromatography using petroleum ether/ethyl acetate as eluent, affording of the title compound as colorless liquid. 1H NMR (DMSO-d6, 400 MHz) δ 7.77 (d, J=10.2 Hz, 1H), 7.67 (t, J=1.5 Hz, 1H), 3.85-3.79 (m, 2H), 2.72 (m, 1H), 2.49 (m, 1H), 1.81 (m, 1H), 1.37 (s, 9H), 0.86 (m, 6H).

reactant | tert-butyl 2-amino-3-methylbutanoate | 0.05 mol, 8.5 g | NC(C(=O)OC(C)(C)C)C(C)C | C9H19NO2
reactant | 4-cyano-2-fluoro-benzyl bromide | 0.044 mol, 9.4 g | C(#N)C1=CC(=C(CBr)C=C1)F | C8H5BrFN
reactant | NaHCO3 | 0.12 mol, 10.2 g | C(=O)(O)[O-].[Na+]
reactant | Water | 70 mL | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | tert-butyl 2-[(4-cyano-2-fluorobenzyl)amino]-3-methylbutanoate | C(#N)C1=CC(=C(CNC(C(=O)OC(C)(C)C)C(C)C)C=C1)F | C17H23FN2O2
